US07524955B2
Ethyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-1,6-dihydropyrimidine-5-carboxylate (22.6 g) was dissolved in toluene (150 ml) and heated until a solution was obtained. Manganese dioxide (18.8 g) was added as a slurry in toluene (150 ml) and the mixture refluxed under azeotropic conditions for 6 hours until conversion was complete. A small amount of water was collected in the Dean and Stark trap. The slurry was filtered and the solvents removed by evaporation under reduced pressure to give ethyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-pyrimidine-5-carboxylate as a crystalline solid in 96% yield.

reactant | Ethyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-1,6-dihydropyrimidine-5-carboxylate | 22.6 g | NC=1NC(C(=C(N1)C1=CC=C(C=C1)F)C(=O)OCC)C(C)C | C16H20FN3O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Manganese dioxide | 18.8 g | [O-2].[O-2].[Mn+4]
product | ethyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-pyrimidine-5-carboxylate | 96% yield | NC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C(=O)OCC)C(C)C | C16H18FN3O2
